US06544985B2
(5-Chloro-4-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc compound from commercially available 5-chloro-4-methyl-2-nitroaniline (10.0 g, 53.6 mmol) and Boc2O (23.9 g, 109 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure B (method c). Obtained by column chromatography (toluene/ethylacetate 19:1) as a yellow solid (14.6 g, 95%).

reactant | 5-chloro-4-methyl-2-nitroaniline | 53.6 mmol, 10.0 g | ClC=1C(=CC(=C(N)C1)[N+](=O)[O-])C | C7H7ClN2O2
reactant | Boc2O | 109 mmol, 23.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | toluene ethylacetate | C1(=CC=CC=C1)C.C(C)OC(C)=O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-Chloro-4-methyl-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C)[N+](=O)[O-])=O | C12H15ClN2O4
